US07842688B2
a) Benzyl 3-(1-ethyl-2-oxo-2,3-dihydro-1H-benzimidazol-4-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
A solution of 0.310 g of benzyl 3-[1-ethyl-2-oxo-3-(2-trimethylsilanylethoxymethyl)-2,3-dihydro-1H-benzimidazol-4-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 4 ml of tetrahydrofuran is admixed with 6 ml of tetrabutylammonium fluoride solution (1M in tetrahydrofuran). The reaction solution is heated to reflux over 48 hours, subsequently cooled to room temperature and admixed with 40 ml of water. The mixture is extracted with tert-butyl methyl ether (2×40 ml) and the combined organic phases are washed with 40 ml of brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellow resin from the residue by means of flash chromatography (SiO2 60F). Rf=0.18 (3:1 EtOAc-heptane); Rt=5.66.

reactant | benzyl 3-[1-ethyl-2-oxo-3-(2-trimethylsilanylethoxymethyl)-2,3-dihydro-1H-benzimidazol-4-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.310 g | C(C)N1C(N(C2=C1C=CC=C2COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OCC2=CC=CC=C2)COCC[Si](C)(C)C)=O | C46H59N3O8Si
reactant | tetrabutylammonium fluoride | 1M, 6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 40 ml | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | Benzyl 3-(1-ethyl-2-oxo-2,3-dihydro-1H-benzimidazol-4-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)N1C(NC2=C1C=CC=C2COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OCC2=CC=CC=C2)=O | C40H45N3O7
